US07612075B2
4-[3-(6-Amino-pyridin-3-yl)-acryloyl]-1-(4-amino-quinazolin-7-ylmethyl)-3-(S)-propyl-piperazin-2-one
The title compound is prepared as described in EXAMPLE 123, using 1-(4-aminoquinazoline-7-ylmethyl)-3-propyl-piperazine-2-one, EXAMPLE 78 and 3-(6-amino-pyridin-3-yl)-acrylic acid, EXAMPLE 36. 1H NMR (d6-DMSO, 300 MHz) δ9.73 (bs, 2H), 8.81 (s, 1H), 8.36 (m, 2H), 8.22 (m, 3H), 7.62 (d, 1H), 7.52 (m, 1H), 7.39 (m, 1H), 7.21 (m, 1H), 6.91 (d, 1H), 5.00 (m, 1H), 4.78 (m, 1H), 4.60 (m, 2H), 4.34 (m, 1H), 3.30 (m, 2H), 1.87 (m, 2H), 1.24 (m, 2H), 0.90 (m, 3H). MS (ion spray), m/z, 446, 448 (M+H), (Cl pattern).

reactant | 1-(4-aminoquinazoline-7-ylmethyl)-3-propyl-piperazine-2-one | NC1=NC=NC2=CC(=CC=C12)CN1C(C(NCC1)CCC)=O | C16H21N5O
reactant | 3-(6-amino-pyridin-3-yl)-acrylic acid | NC1=CC=C(C=N1)C=CC(=O)O | C8H8N2O2
product | 4-[3-(6-Amino-pyridin-3-yl)-acryloyl]-1-(4-amino-quinazolin-7-ylmethyl)-3-(S)-propyl-piperazin-2-one | NC1=CC=C(C=N1)C=CC(=O)N1[C@H](C(N(CC1)CC1=CC=C2C(=NC=NC2=C1)N)=O)CCC | C24H27N7O2
